US04782050
1. 2-methyl-1H-naphth[1,2-d]imidazole
To a solution of 7.38 g of 1,2-diaminonaphthalene in 175 ml of ethanol was added 8.56 ml of triethyl orthoacetate and the reaction mixture heated to reflux for 3.5 hours. The solvent was removed in vacuo and the residue partitioned between chloroform and water. The organic phase was separated, dried over magnesium sulfate and concentrated to a dark oil, 9.0 g.

reactant | 1,2-diaminonaphthalene | 7.38 g | NC1=C(C=CC2=CC=CC=C12)N | C10H10N2
reactant | triethyl orthoacetate | 8.56 ml | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 2-methyl-1H-naphth[1,2-d]imidazole | CC1=NC2=C(N1)C1=CC=CC=C1C=C2 | C12H10N2
